US06927228B2
N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-3-methoxy-N-methylbenzamide
In a manner similar to that of Example 37(e), by reacting 540 mg (1.2 mmol) of 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoroacetate with 300 μl (2 mmol) of 3-methoxybenzoyl chloride, and after purification, 400 mg (70%) of N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-3-methoxy-N-methylbenzamide are obtained in the form of a white solid with a melting point of 173° C.

reactant | 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoroacetate | 1.2 mmol, 540 mg | FC(C(=O)O)(F)F.CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O
reactant | 3-methoxybenzoyl chloride | 2 mmol, 300 μl | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-3-methoxy-N-methylbenzamide | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC(=CC=C1)OC)=O)C | C26H24N2O4S
